US05227398
3,4-Methylenedioxyaniline (7.0 g) was dissolved in 100 ml of THF, to which 5.7 g of triethylamine and 5.8 g of carbon disulfide were added. The resulting mixture was stirred for 1 hour at room temperature. Then, 10.8 g of methyl iodide were added, followed by overnight stirring. The reaction mixture was washed with water and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. After the solvent was distilled off, 8.3 g or reddish brown crystals were obtained. The crystals were recrystallized from ethyl acetate, whereby 7.2 g of methyl N-(3,4-methylenedioxyphenyl)dithiocarbamate were obtained as colorless crystals.

reactant | 3,4-Methylenedioxyaniline | 7.0 g | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | triethylamine | 5.7 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 5.8 g | C(=S)=S | CS2
reactant | methyl iodide | 10.8 g | CI | CH3I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | methyl N-(3,4-methylenedioxyphenyl)dithiocarbamate | 7.2 g | C1OC=2C=C(C=CC2O1)NC(SC)=S | C9H9NO2S2
